US06514970B1
To a mixture of 2.76 g (20 mmol) of 4-hydroxyphenethyl alcohol in 70 mL of anhydrous tetrahydrofuran at rt was added 4.8 g (200 mmol) of sodium hydride (95%, dry powder). After stirring at rt for 10 min, 18.5 g (80 mmol) of 2-nitrobenzenesulfonyl chloride was added. After the resulting mixture was stirred at rt for 16 h, 250 mL of ether was added. The mixture was cooled to 0° C. and water was slowly added to the mixture to quench excess sodium hydride. After quenching process was completed, additional 300 mL of water was added. The resulting precipitate was collected via filtration, washed with water and dried in vacuo to yield 2-nitrobenzenesulfonic acid 2-[4-(2-nitrobenzenesulfonyloxy)-phenyl]-ethyl ester as a white powder (9.13 g, 90%): MS (ESI) 509 [M+H]+.

reactant | 4-hydroxyphenethyl alcohol | 20 mmol, 2.76 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | sodium hydride | 200 mmol, 4.8 g | [H-].[Na+]
reactant | 2-nitrobenzenesulfonyl chloride | 80 mmol, 18.5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | ether | 250 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-nitrobenzenesulfonic acid 2-[4-(2-nitrobenzenesulfonyloxy)-phenyl]-ethyl ester | 9.13 g, 90% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C20H16N2O10S2
